US09024032B2
To a solution of 0.05 g (0.01 mmol) 1-[3-(5-chloro-1H-pyrrolo[2,3-b]pyridin-4-yl)-phenyl]-5-(4-methoxy-benzyloxy)-4-oxo-1,4-dihydro-pyridine-2-carbaldehyde in 3 mL THF at −40° C. was added 1 mL phenylethynylmagnesium bromide (1.0 M in THF). The reaction mixture was stirred at −40° C. for 30 min before 1 mL of water was added. The reaction was gravity filtered through an Isolute HM-N tube, which was rinsed with 4 mL EtOAc and the combined organics were concentrated. The resulting residue was dissolved in 1 mL TFA and allowed to stand at room temperature for 5 min before being concentrated. Purification by automated mass-guided HPLC afforded 1-[3-(5-chloro-1H-pyrrolo[2,3-b]pyridin-4-yl)phenyl]-5-hydroxy-2-(1-hydroxy-3-phenylprop-2-yn-1-yl)pyridin-4(1H)-one. Compound exhibits equilibrating rotational isomerism in solution. Reported NMR data correlates to the major rotational isomer. 1H NMR (500 MHz, CD3OD, 0° C.): δ 8.26 (s, 1H); 7.96 (s, 1H); 7.89-7.78 (m, 3H); 7.71 (t, J=8.59 Hz, 1H); 7.50 (d, J=3.49 Hz, 1H); 7.41-7.36 (m, 5H); 6.34 (d, J=3.46 Hz, 1H); 5.45 (s, 1H). HRMS (FT/ICR) Calc (M+H)+ 468.1109. Found 468.1109.

reactant | 1-[3-(5-chloro-1H-pyrrolo[2,3-b]pyridin-4-yl)-phenyl]-5-(4-methoxy-benzyloxy)-4-oxo-1,4-dihydro-pyridine-2-carbaldehyde | 0.01 mmol, 0.05 g | ClC=1C(=C2C(=NC1)NC=C2)C=2C=C(C=CC2)N2C(=CC(C(=C2)OCC2=CC=C(C=C2)OC)=O)C=O | C27H20ClN3O4
reactant | phenylethynylmagnesium bromide | 1.0 M, 1 mL | C1(=CC=CC=C1)C#C[Mg]Br
reactant | water | 1 mL | O | H2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 1-[3-(5-chloro-1H-pyrrolo[2,3-b]pyridin-4-yl)phenyl]-5-hydroxy-2-(1-hydroxy-3-phenylprop-2-yn-1-yl)pyridin-4(1H)-one | ClC=1C(=C2C(=NC1)NC=C2)C=2C=C(C=CC2)N2C(=CC(C(=C2)O)=O)C(C#CC2=CC=CC=C2)O | C27H18ClN3O3
